US07273865B2
A solution of 60 mg (0.14 mmol) 4-chloromethyl-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-benzamide in 0.30 ml (2.70 mmol) N-(2-methoxyethyl)methylamine was ultrasonicated at room temperature for 40 min. The reaction mixture was then concentrated in vacuo. Flash chromatography (methanol/dichloromethane) followed by trituration in ether afforded 41 mg (61%) 4-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-benzamide as a white crystalline solid. ES-MS m/e (%): 472 (M+H+, 100).

reactant | 4-chloromethyl-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-benzamide | 0.14 mmol, 60 mg | ClCC1=CC=C(C(=O)NC=2SC=3C(=NC=C(C3N2)OC)N2CCOCC2)C=C1 | C19H19ClN4O3S
reactant | N-(2-methoxyethyl)methylamine | 2.70 mmol, 0.30 ml | COCCNC | C4H11NO
product | 4-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-benzamide | 41 mg, 61% | COCCN(C)CC1=CC=C(C(=O)NC=2SC=3C(=NC=C(C3N2)OC)N2CCOCC2)C=C1 | C23H29N5O4S
